US05002945
1.4 g of acetic acid anhydride are added to 2.5 ml of formic acid, and the mixture is stirred at 60° C. for 30 minutes. The reaction solution is cooled in an ice bath, a solution of 1.07 g of 1-(4,6-dimethyl-2-pyridyl)-2-(2-aminobenzylthio)imidazole in 4 ml of formic acid is added thereto, and the mixture is stirred at room temperature for 1 hour. After the reaction, the solvent is distilled off. Water is added to the residue, and the aqueous mixture is made alkaline with potassium carbonate. The mixture is then extracted with ethyl acetate, dried and evaporated to remove the solvent. The residue is purified by silica gel column chromatography (solvent; ethyl acetate:n-hexane=1:1). The crude crystals obtained above are recrystallized from a mixture of ethyl acetate and n-hexane, whereby 0.64 g of 1-(4,6-dimethyl-2-pyridyl)-2-(2-formylaminobenzylthio)imidazole is obtained.

reactant | acetic acid anhydride | 1.4 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1-(4,6-dimethyl-2-pyridyl)-2-(2-aminobenzylthio)imidazole | 1.07 g | CC1=CC(=NC(=C1)C)N1C(=NC=C1)SCC1=C(C=CC=C1)N | C17H18N4S
solvent | formic acid | 4 ml | C(=O)O | CH2O2
solvent | formic acid | 2.5 ml | C(=O)O | CH2O2
product | 1-(4,6-dimethyl-2-pyridyl)-2-(2-formylaminobenzylthio)imidazole | 0.64 g, Yield 55% | CC1=CC(=NC(=C1)C)N1C(=NC=C1)SCC1=C(C=CC=C1)NC=O | C18H18N4OS
